US07598257B2
Step 5. 4-Methyl-4-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]pentanenitrile
3-methyl-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]butyl methanesulfonate (2.97 g, 8.50 mmol), DMF (120 mL) and sodium cyanide (6.21 g, 0.127 mol) were distributed evenly into six 20 mL microwavable vessels, each of which was heated in the microwave reactor for 4000 seconds at 125° C. The contents of the vials were combined and were diluted with 400 mL water and extracted with five 150 mL portions of ethyl acetate. The combined extracts were dried over sodium sulfate, and the solvent was removed in vacuo. The crude residue was purified by flash column chromatography to yield the desired product (1.40 g, 59%).

reactant | 3-methyl-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]butyl methanesulfonate | 8.50 mmol, 2.97 g | CS(=O)(=O)OCCC(C)(N1N=CC(=C1)C=1C2=C(N=CN1)NC=C2)C | C15H19N5O3S
reactant | DMF | 120 mL | CN(C)C=O | C3H7NO
reactant | sodium cyanide | 0.127 mol, 6.21 g | [C-]#N.[Na+]
solvent | water | 400 mL | O | H2O
product | 4-Methyl-4-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]pentanenitrile | 1.40 g, 59% | CC(CCC#N)(C)N1N=CC(=C1)C=1C2=C(N=CN1)NC=C2 | C15H16N6
